US08114877B2
N-{2-[9-[(1R,2S,3R,4S)-2,3-Dihydroxy-4-(4-methyl-pyrazol-1-yl)-cyclopentyl]-6-(2,2-diphenyl-ethylamino)-9H-purin-2-ylamino]-ethyl}-methanesulfonamide
The title compound is prepared from (1R,2S,3R,5S)-3-[2-(2-Amino-ethylamino)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-methyl-pyrazol-1-yl)-cyclopentane-1,2-diol and mesyl chloride using a procedure analogous to that of Example 31. MS (ES+) m/e 632 (MH+).

reactant | (1R,2S,3R,5S)-3-[2-(2-Amino-ethylamino)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-5-(4-methyl-pyrazol-1-yl)-cyclopentane-1,2-diol | NCCNC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=C1)C)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C30H35N9O2
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
product | N-{2-[9-[(1R,2S,3R,4S)-2,3-Dihydroxy-4-(4-methyl-pyrazol-1-yl)-cyclopentyl]-6-(2,2-diphenyl-ethylamino)-9H-purin-2-ylamino]-ethyl}-methanesulfonamide | O[C@H]1[C@@H](C[C@@H]([C@H]1O)N1N=CC(=C1)C)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)NCCNS(=O)(=O)C | C31H37N9O4S
